US06878700B1
3-(Hydroxymethyl)-6-bromo-benzodioxane
To a stirred solution of 5-bromosalicylaldehyde (5.0 g, 24.9 mmol), and epichlorohydrin (5.6 mL, 72.1 mmol) in 20 mL of DMF at 80° C. was added K2CO3 slowly in portions. The resulting mixture was then heated at 90° C. for 3 hours. Reaction was then stopped, water was added, extracted with diethyl ether. The organic extracts were washed with water, brine, dried over Na2SO4, concentrated in vacuo. The residue was purified on a SiO2 flash column chromatography eluting with 15-30% EtOAc/hexanes to give 2.82 g (44%) of the title compound as a colorless oil.

reactant | 5-bromosalicylaldehyde | 24.9 mmol, 5.0 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | epichlorohydrin | 72.1 mmol, 5.6 mL | C(Cl)C1CO1 | C3H5ClO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(Hydroxymethyl)-6-bromo-benzodioxane | 2.82 g, 44% | OCC1OC2=C(OC1)C=CC(=C2)Br | C9H9BrO3
